US09376452B2
A solution of 40% v/v TFA/DCM (20 mL) was added to tert-butyl 2-(3-(4-fluorobenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (0.33 g, 0.71 mmol) and the mixture was stirred at RT for 1 hour. The volatiles were removed at 30° C. and the material was purified by reverse-phase chromatography (10-100% MeCN/water). 2-(3-(4-Fluorobenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylic acid (0.21 g, 0.51 mmol, 72% yield) was isolated as a pale, yellow solid. 1H NMR (400 MHz, DMSO) δ 14.81 (s, 1H), 13.36 (s, 1H), 11.83 (s, 1H), 8.11-8.00 (m, 2H), 7.38 (apparent t, J=8.9 Hz, 2H), 4.66 (s, 2H), 2.74 (s, 2H), 1.23 (s, 6H). 13C NMR (101 MHz, DMSO) δ 174.33, 166.13, 165.72, 165.35, 163.63, 146.76, 131.80, 131.70, 129.08, 128.60, 128.57, 124.06, 116.48, 115.54, 115.32, 70.12, 58.80, 37.25, 26.16. LCMS retention time: 3.206 min; LCMS purity at 214 nm=98%. HRMS m/z calculated for C18H18FN2O4S2 [M++1]: 409.0687. found 409.0687. Melting point 205.3° C., decomposition.

reactant | tert-butyl 2-(3-(4-fluorobenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.71 mmol, 0.33 g | FC1=CC=C(C(=O)NC(NC2=C(C3=C(COC(C3)(C)C)S2)C(=O)OC(C)(C)C)=S)C=C1 | C22H25FN2O4S2
solvent | TFA DCM | 20 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 2-(3-(4-Fluorobenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylic acid | 0.51 mmol, 0.21 g, 72% yield | FC1=CC=C(C(=O)NC(NC2=C(C3=C(COC(C3)(C)C)S2)C(=O)O)=S)C=C1 | C18H17FN2O4S2
